US06716851B2
4-[3-(4-Bromo-1-methyl-1H-pyrazol-3-yl)anilino]-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine
A mixture of 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine (50 mg, 0.193 mmol), 3-(4-bromo-1-methyl-1H-pyrazol-3-yl)aniline (97 mg, 0.386 mmol) and aqueous 2N HCl (150 μl) in water:ethanol (1:1, 10 ml) was refluxed for 24 h. The mixture was cooled to room temperature, extracted with ethyl acetate (50 ml) and washed with water (1×25 ml). The ethyl acetate solution was acidified with aqueous 2N HCl (1×25 ml). The resulting precipitate was collected by filtration, washed with water and isolated as a pale white solid (59 mg, 64%). 1H NMR (DMSO-d6): 10.54 (s, 1H), 9.44 (d, J=2.1 Hz, 1H), 8.75 (dd, J=1.8, 4.8 Hz, 1H), 8.62-8.58 (m, 1H), 7.94 (s, 1H), 7.92 (s, 1H), 7.71 (s, 1H), 7.65 (t, J=8.3 Hz, 1H), 7.59-7.54 (m, 1H), 7.28 (d, J=8.1 Hz, 1H), 7.19 (s, 1H), 3.81 (s, 3H).

reactant | 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.193 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C10H5ClF3N3
reactant | 3-(4-bromo-1-methyl-1H-pyrazol-3-yl)aniline | 0.386 mmol, 97 mg | BrC=1C(=NN(C1)C)C=1C=C(N)C=CC1 | C10H10BrN3
reactant | HCl | 2N, 150 μl | Cl | ClH
solvent | water ethanol | 10 ml | O.C(C)O
product | 4-[3-(4-Bromo-1-methyl-1H-pyrazol-3-yl)anilino]-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | 59 mg, 64% | BrC=1C(=NN(C1)C)C=1C=C(NC2=NC(=NC(=C2)C(F)(F)F)C=2C=NC=CC2)C=CC1 | C20H14BrF3N6
